US04820844
1-[N,N-bis(hydroxyethyl)carbamoylmethyl]-3-nitro-1,2,4-triazole-5-carboxylic acid methoxyethylamide
To 530 mg of 1-methoxycarbamoylmethyl-3-nitro-1,2,4-triazole-5-carboxylic acid methoxyethylamide dissolved in 3 ml of dioxane is added 1 g of diethanolamine.

reactant | 1-methoxycarbamoylmethyl-3-nitro-1,2,4-triazole-5-carboxylic acid methoxyethylamide | 530 mg | COCCNC(=O)C1=NC(=NN1CC(NOC)=O)[N+](=O)[O-] | C9H14N6O6
reactant | diethanolamine | 1 g | N(CCO)CCO | C4H11NO2
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-[N,N-bis(hydroxyethyl)carbamoylmethyl]-3-nitro-1,2,4-triazole-5-carboxylic acid methoxyethylamide | COCCNC(=O)C1=NC(=NN1CC(N(CCO)CCO)=O)[N+](=O)[O-] | C12H20N6O7
